US07528136B2
[(2S,4S)-1-Benzyl-4-(2,4-difluoro-benzylamino)-pyrrolidin-2-yl]-(6,7-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl)-methanone
As described for Example 1f, 1-benzyl-4-[tert-butoxycarbonyl-(2,4-difluoro-benzyl)-amino]-pyrrolidine-2-carboxylic acid (60.0 mg, 0.134 mmol) was converted, using 6,7-dimethoxy-1,2,3,4-tetrahydro-isoquinoline instead of 2-piperazin-1-yl-benzonitrile, to the title compound (3.5 mg, 5.0%) as light yellow oil. MS m/e=522.4 [M+H]+.

reactant | 1-benzyl-4-[tert-butoxycarbonyl-(2,4-difluoro-benzyl)-amino]-pyrrolidine-2-carboxylic acid | 0.134 mmol, 60.0 mg | C(C1=CC=CC=C1)N1C(CC(C1)N(CC1=C(C=C(C=C1)F)F)C(=O)OC(C)(C)C)C(=O)O | C24H28F2N2O4
reactant | 6,7-dimethoxy-1,2,3,4-tetrahydro-isoquinoline | COC=1C=C2CCNCC2=CC1OC | C11H15NO2
product | [(2S,4S)-1-Benzyl-4-(2,4-difluoro-benzylamino)-pyrrolidin-2-yl]-(6,7-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl)-methanone | 3.5 mg, 5.0% | C(C1=CC=CC=C1)N1[C@@H](C[C@@H](C1)NCC1=C(C=C(C=C1)F)F)C(=O)N1CC2=CC(=C(C=C2CC1)OC)OC | C30H33F2N3O3
